US06051712
In an analogous manner to that described in Example 125 (h), from tert-butyl (3'RS,4'RS)-6-(2-benzyloxy-ethyl)-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate by cleavage of the BOC group by means of anhydrous zinc bromide there was obtained (3'RS,4'RS)-6-(2-benzyloxy-ethyl)-3'-(naphthalen-2-ylmethoxy)-1',2',3',4',5',6'-hexahydro-[3,4']bipyridine in the form of a beige gum; MS: 453 (M+H)+.

reactant | tert-butyl (3'RS,4'RS)-6-(2-benzyloxy-ethyl)-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | C(C1=CC=CC=C1)OCCC1=CC=C(C=N1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C35H40N2O4
catalyst | zinc bromide | [Br-].[Zn+2].[Br-]
product | (3'RS,4'RS)-6-(2-benzyloxy-ethyl)-3'-(naphthalen-2-ylmethoxy)-1',2',3',4',5',6'-hexahydro-[3,4']bipyridine | C(C1=CC=CC=C1)OCCC1=CC=C(C=N1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C=C1 | C30H32N2O2
